US08198279B2
4-(4-amino-3-(methylthio)phenoxy)-3-nitropyridin-2-amine
Method A2 Sodium hydride (148 mg) was added to dry DMSO (5.5 mL) and the mixture was stirred at RT for 20 minutes under Ar atmosphere. 4-amino-3-(methylthio)phenol (573 mg, 3.7 mmol) was added thereto, and the mixture stirred for 10 more minutes. Next, 4-Chloro-3-nitropyridin-2-amine (3.7 mmol) was added, and the mixture was heated to 100′C and stirred for 3 hours. After cooling down, water was added, and the mixture extracted three times with EtOAc. The combined organic layers were washed first with a saturated aqueous sodium hydrogen carbonate solution then water, dried over MgSO4 and evaporated to afford the title compound (657 mg, 61%) was obtained after purification by chromatography on silica gel (EtOAc-DCM, 1:1) as a red brown solid (Rf 0.56, EtOAc-DCM, 1:1).

reactant | Sodium hydride | 148 mg | [H-].[Na+]
reactant | DMSO | 5.5 mL | CS(=O)C | C2H6OS
reactant | 4-amino-3-(methylthio)phenol | 3.7 mmol, 573 mg | NC1=C(C=C(C=C1)O)SC | C7H9NOS
reactant | 4-Chloro-3-nitropyridin-2-amine | 3.7 mmol | ClC1=C(C(=NC=C1)N)[N+](=O)[O-] | C5H4ClN3O2
solvent | water | O | H2O
product | 4-(4-amino-3-(methylthio)phenoxy)-3-nitropyridin-2-amine | 657 mg, 61% | NC1=C(C=C(OC2=C(C(=NC=C2)N)[N+](=O)[O-])C=C1)SC | C12H12N4O3S
